US07820707B2
c) 2-(2-(3-(Trifluoromethyl)-1H-pyrazolo[4,3-c]pyridin-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
A mixture of 3-(trifluoromethyl)-1H-pyrazolo[4,3-c]pyridine (20 mg, 0.107 mmol), 2-(2-bromoacetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (33.9 mg, 0.107 mmol) and potassium carbonate (29.5 mg, 0.214 mmol) in DMF (0.5 mL) was heated to 60° C. and this temperature maintained for 2 h. The reaction mixture was allowed to cool to RT, and purified by preparative reverse phase HPLC to give a white solid (2.1 mg, 5 μmol, 4.6%).

reactant | 3-(trifluoromethyl)-1H-pyrazolo[4,3-c]pyridine | 0.107 mmol, 20 mg | FC(C1=NNC2=C1C=NC=C2)(F)F | C7H4F3N3
reactant | 2-(2-bromoacetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.107 mmol, 33.9 mg | BrCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C11H13BrN2O2S
reactant | potassium carbonate | 0.214 mmol, 29.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-(2-(3-(Trifluoromethyl)-1H-pyrazolo[4,3-c]pyridin-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 5 μmol, 2.1 mg, 4.6% | FC(C1=NN(C2=C1C=NC=C2)CC(=O)NC2=C(C1=C(S2)CCCC1)C(=O)N)(F)F | C18H16F3N5O2S
